US05726319
Step F: (R)-2-[(3-t-Butoxycarbonylamino-3-methyl-1-oxobutyl)amino]-N-phenyl-N-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4yl]methyl]butanamide
Prepared as in Example 1, Step N from (R)-2-amino-N-phenyl-N-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]butanamide, hydrochloride and 3-t-butoxycarbonylamino-3-methylbutanoic acid, N-hydroxysuccinimide ester.

reactant | (R)-2-amino-N-phenyl-N-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]butanamide, hydrochloride | Cl.N[C@@H](C(=O)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C1=CC=CC=C1)CC
reactant | 3-t-butoxycarbonylamino-3-methylbutanoic acid | C(C)(C)(C)OC(=O)NC(CC(=O)O)(C)C | C10H19NO4
product | (R)-2-[(3-t-Butoxycarbonylamino-3-methyl-1-oxobutyl)amino]-N-phenyl-N-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4yl]methyl]butanamide | C(C)(C)(C)OC(=O)NC(CC(=O)N[C@@H](C(=O)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C1=CC=CC=C1)CC)(C)C | C34H41N7O4
